US04670443
2-(2-Bromophenyl)acetaldehyde
A solution of 9.11 grams (0.045 mole) of 2-(2-bromophenyl)ethanol in 35 milliliters of methylene chloride was added to a stirred suspension of 14.62 grams (0.063 mole) of pyridinium chlorochromate in 75 milliliters of methylene chloride at ambient temperature whereupon a slightly exothermic reaction took place with the formation of a black reaction mixture. Stirring was continued for 15 hours at ambient temperature; then 150 milliliters of ether was added and the mixture filtered through silica gel on a pad of celite. The insoluble residue was washed with 100 milliliters of ether, filtered, the ether solutions combined and the solvents evaporated on a rotary evaporator to recover as residue, 8.0 grams (90 percent) of the desired 2-(2-bromophenyl)acetaldehyde intermediate as an oil. The oil had an Rf of 0.6 on silica gel when eluted with one percent methanol in chloroform.

reactant | 2-(2-bromophenyl)ethanol | 0.045 mole, 9.11 grams | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | pyridinium chlorochromate | 0.063 mole, 14.62 grams | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ether | 150 milliliters | CCOCC | C4H10O
solvent | methylene chloride | 35 milliliters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 milliliters | C(Cl)Cl | CH2Cl2
product | 2-(2-Bromophenyl)acetaldehyde | BrC1=C(C=CC=C1)CC=O | C8H7BrO
